US08133886B2
Step 17.2: 4-(5-Carboxy-naphthalen-2-yloxy)-pyrimidine-2-carboxylic acid ethyl ester
A mixture of 5 g (16.6 mMol) 6-(2-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid, 80 ml EtOH, 7 ml (50 mMol) Et3N and 1180 mg (1.6 mMol) PdCl2(PPh3)2 is stirred under a atmosphere of 120 bar carbonmonoxide in an autoclave for 12 h at 115° C. The reaction mixture is diluted with 500 ml EtOAc and 500 ml 10% citric acid. The aq. layer is separated off and extracted with 2 Portions of EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated. Trituration of the residue in EtOAc and filtration gives the title compound. More product can be isolated from the filtrate by chromatography (Combi Flash; CH2Cl2/EtOAc 4:1→EtOAc): m.p.: 214-217° C.; MS: [M+1]+=339; TLC(EtOAc+0.5% HOAc): Rf=0.30.

reactant | 6-(2-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | 16.6 mMol, 5 g | ClC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H9ClN2O3
reactant | EtOH | 80 ml | CCO | C2H6O
reactant | Et3N | 50 mMol, 7 ml | CCN(CC)CC | C6H15N
reactant | carbonmonoxide | [C]=O | CO
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
solvent | citric acid | 500 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | PdCl2(PPh3)2 | 1.6 mMol, 1180 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(5-Carboxy-naphthalen-2-yloxy)-pyrimidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=CC(=N1)OC1=CC2=CC=CC(=C2C=C1)C(=O)O | C18H14N2O5
